US05998433
d) Synthesis of 6-(4-benzoylphenylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 0.04 ml (0.5 mmol) of oxalyl chloride in 30 ml of dichloromethane, 0.07 ml (1.0 mmol) of dimethyl sulfoxide was added dropwise at -78° C., followed by stirring for 5 minutes. To this solution, a solution of 0.122 g (0.330 mmol) of 4-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylsulfonyl)phenylphenylmethanol in 10 ml of dichloromethane and 1 ml of dimethyl sulfoxide was added at -78° C., followed by stirring for 15 minutes. To this mixture, 0.28 ml (2.0 mmol) of triethylamine was added; the mixture was allowed to warm to room temperature. After the reaction mixture was washed with water, the water layer was re-extracted with diethyl ether. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to yield the desired product.

reactant | oxalyl chloride | 0.5 mmol, 0.04 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylsulfonyl)phenylphenylmethanol | 0.330 mmol, 0.122 g | O1C=CC2=C1CN(CC2)S(=O)(=O)C2=CC=C(C=C2)C(O)C2=CC=CC=C2 | C20H19NO4S
reactant | triethylamine | 2.0 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.0 mmol, 0.07 ml | CS(=O)C | C2H6OS
product | 6-(4-benzoylphenylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)C=CO2 | C20H17NO4S
